US06441005B1
5-(S)-Acetamidomethyl-3-[4′-methylsulfonyl-3′-fluorophenyl]oxazolidine-2-one
m-Chloroperoxybenzoic acid (77%, 0.0784 g, 0.350 mmol) was added portionwise to a solution of 5-(S)-Acetamidomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one (0.110 g, 0.350 mmol) in DCM (20 ml) at r.t. The mixture was stirred for 2 h, then washed with aq. saturated sodium bicarbonate, brine, dried (MgSO4), and evaporated to give product as a white solid (0.106 g, 92%). MS (m/z): [M+H]+=331.

reactant | m-Chloroperoxybenzoic acid | 0.350 mmol, 0.0784 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-(S)-Acetamidomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one | 0.350 mmol, 0.110 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)C)F | C13H15FN2O4S
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-(S)-Acetamidomethyl-3-[4′-methylsulfonyl-3′-fluorophenyl]oxazolidine-2-one | 0.106 g, 92% | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)(=O)C)F | C13H15FN2O5S
